US04997844
Using a similar procedure to that described in Example 157, but starting with 2-cyclopentylacetyl chloride and N-(4-[6-aminoindol-1-ylmethyl]-3-methoxybenzoyl)benzenesulphonamide, there may be obtained N-(4-[6-(2-cyclopentylacetamido)indol-1-ylmethyl]-3-methoxybenzoyl)benzenesulphonamide as a solid essentially identical in physical properties to that obtained in Example 280.

reactant | 2-cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | N-(4-[6-aminoindol-1-ylmethyl]-3-methoxybenzoyl)benzenesulphonamide | NC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1)OC | C23H21N3O4S
product | N-(4-[6-(2-cyclopentylacetamido)indol-1-ylmethyl]-3-methoxybenzoyl)benzenesulphonamide | C1(CCCC1)CC(=O)NC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1)OC | C30H31N3O5S
